US07368578B2
A mixture of 1-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperidine (2.7 g) and triethyl phosphite (1.5 g) was stirred at 160° C. for 20 hrs. Excess triethyl phosphite was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (2:1, v/v), then ethyl acetate-methanol (10:1, v/v) to give diethyl {[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]methyl}phosphonate as a brown oil (1.4 g, yield 35%). NMR (CDCl3) δ: 1.29 (6H, t, J=7.1 Hz), 1.53-1.74 (6H, m), 2.24 (3H, d, J=4.1 Hz), 3.10 (2H, d, J=20.9 Hz), 3.28-3.46 (4H, m), 4.00-4.21 (4H, m).

reactant | 1-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperidine | 2.7 g | ClCC=1N=C(SC1C)N1CCCCC1 | C10H15ClN2S
reactant | triethyl phosphite | 1.5 g | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | diethyl {[5-methyl-2-(piperidin-1-yl)-1,3-thiazol-4-yl]methyl}phosphonate | 1.4 g, yield 35% | CC1=C(N=C(S1)N1CCCCC1)CP(OCC)(OCC)=O | C14H25N2O3PS
